US09062056B2
(R)-3-(5-Cyano-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-3-phenyl-propionic acid ethyl ester
To a stirred solution of (R)-3-(3-amino-6-cyano-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester (600 mg, 1.93 mmol) in THF (20 ml) was added CDI (630 mg, 3.87 mmol) and DBU (0.12 ml, 0.77 mmol). The resulting solution was stirred at room temperature for 18 hours after which time the reaction appeared complete. Added silica gel and concentrated. The remaining solid was purified via silica gel flash column chromatography (Companion, 12 g silica gel, 30-60% EtOAc/hexanes) to give 120 mg (19%) of the title compound.

reactant | (R)-3-(3-amino-6-cyano-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 1.93 mmol, 600 mg | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1N)C#N)=O | C17H18N4O2
reactant | CDI | 3.87 mmol, 630 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DBU | 0.77 mmol, 0.12 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-3-(5-Cyano-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl)-3-phenyl-propionic acid ethyl ester | 120 mg, 19% | C(C)OC(C[C@H](C1=CC=CC=C1)N1C(NC=2C1=NC(=CC2)C#N)=O)=O | C18H16N4O3
